US06770667B1
A suspension of 3,6dichloro4-(3-nitro-phenyl)pyridazine (0.19 g) and sodium hydrogen carbonate (147 mg) in tetrahydrofuran (2 ml) and ethanol (5 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 100 mg) under hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated. The residue was diluted with ethyl acetate and an aqueous solution of sodium hydrogen carbonate. The separated organic layer was washed with brine and dried over potassium carbonate. The organic layer was evaporated under reduced pressure to give 3-(pyridazin-4-yl)phenylamine (106 mg, 88.3%).

reactant | 3,6dichloro4-(3-nitro-phenyl)pyridazine | 0.19 g | ClC=1N=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])Cl | C10H5Cl2N3O2
reactant | sodium hydrogen carbonate | 147 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-(pyridazin-4-yl)phenylamine | 106 mg, 88.3% | N1=NC=C(C=C1)C=1C=C(C=CC1)N | C10H9N3
